US04096264
A mixture of 2-amino 4-phenylthio pyridine, 1.0 g. (0.00494 mole) and 0.82 g. of methylchloroacetyl carbamate are heated in hexamethylphosphoramide following the procedures of Example 5 to yield 2(methoxycarbonylamino) 7-(phenylthio) imidazo [1,2-a] pyridine, m.p. 221°-223° C.

reactant | 2-amino 4-phenylthio pyridine | NC1=NC=CC(=C1)SC1=CC=CC=C1 | C11H10N2S
reactant | methylchloroacetyl carbamate | C(N)(OC(C(Cl)C)=O)=O | C4H6ClNO3
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 2(methoxycarbonylamino) 7-(phenylthio) imidazo [1,2-a] pyridine | COC(=O)NC=1N=C2N(C=CC(=C2)SC2=CC=CC=C2)C1 | C15H13N3O2S
